US04950686
To a solution of tropolone (1,680 mg) dissolved in benzene (36 ml) is added thionyl chloride (1.12 ml). The mixture is stirred for 1.5 hr with refluxing. After concentrating the reaction mixture under reduced pressure, the resulting residue is purified by silica gel chromatography and recrystallized from cyclohexane to give 1.08 g of 2-chlorotropone as yellow needles. To a solution of the 2-chlorotropone (75 mg) dissolved in dimethylformamide (4 ml) is added potassium thiocyanate (270 mg). The mixture is stirred at 110° C. for 26 hr. To the reaction mixture is added water (50 ml), followed by cooling with ice. The resulting precipitate is recovered by filtration, purified by silica gel chromatography and recrystallized from ethanol to give 59 mg of 2-thiocyanatotropone as light brown needles.

reactant | tropolone | 1,680 mg | C1=CC=C(C(=O)C=C1)O | C7H6O2
reactant | thionyl chloride | 1.12 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 36 ml | C1=CC=CC=C1 | C6H6
product | 2-chlorotropone | 1.08 g | C1=CC=C(C(=O)C=C1)Cl | C7H5ClO
